US06635657B1
A. 2-[(1-tert-Butoxycarbonylpyrrolidin-3-ylaminocarbonyl)amino]-N-(5-chloropyridin-2-yl)benzamide
A solution of 3-amino-1-tert-butoxycarbonylpyrrolidine (200 mg, 1.08 mmol; prepared from 1-tert-butoxycarbonyl-3-hydroxy-pyrrolidine using a similar procedure to that described in Example 77-B) and triethylamine (0.38 mL) in methylene chloride (3.5 mL) was added dropwise to a solution of triphosgene (120 mg, 0.403 mmol) in methylene chloride (2 mL). After complete addition, a solution of 2-amino-N-(5-chloropyridin-2-yl)benzamide (242 mg, 0.983 mmol) and triethylamine (0.38 mL) in methylene chloride (3.5 mL) was added in one portion. After 16 h, the mixture was treated with an additional equivalent of the isocyanate. After 1 h, the mixture was concentrated and the residue was partitioned between EtOAc and water. The organic layer was washed with 0.5 N HCl (2×), satd sodium bicarbonate (1×), water, brine, dried with sodium sulfate, and concentrated. The residue was purified by column chromatography (SiO2: 40 to 50% EtOAc in hexanes) affording 160 mg (35%) of the title compound.

reactant | 3-amino-1-tert-butoxycarbonylpyrrolidine | NC1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 1-tert-butoxycarbonyl-3-hydroxy-pyrrolidine | C(C)(C)(C)OC(=O)N1CC(CC1)O | C9H17NO3
reactant | triphosgene | 0.403 mmol, 120 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-amino-N-(5-chloropyridin-2-yl)benzamide | 0.983 mmol, 242 mg | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=CC=C1 | C12H10ClN3O
reactant | isocyanate | [N-]=C=O
solvent | methylene chloride | 3.5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3.5 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.38 mL | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.38 mL | C(C)N(CC)CC | C6H15N
product | 2-[(1-tert-Butoxycarbonylpyrrolidin-3-ylaminocarbonyl)amino]-N-(5-chloropyridin-2-yl)benzamide | 160 mg, 35% | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=CC=C1 | C22H26ClN5O4
